US08536179B2
To a solution of cyclobutanecarboxylic acid (50 g, 500 mmol) in EtOH (1.2 L) was slowly added H2SO4 (20 mL) at room temperature. The solution was stirred at reflux overnight, and then cooled and poured into H2O. The aqueous layer was extracted with ether. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated in vacuo to give ethyl cyclobutanecarboxylate as a colorless oil (44 g, 69%). 1H NMR (400 MHz, CDCl3-d3) δ 4.04 (q, 2H), 3.04 (m, 1H), 2.12 (m, 4H), 1.88 (m, 2H), 1.18 (t, 3H).

reactant | cyclobutanecarboxylic acid | 500 mmol, 50 g | C1(CCC1)C(=O)O | C5H8O2
reactant | H2SO4 | 20 mL | OS(=O)(=O)O | H2O4S
reactant | H2O | O | H2O
reactant | EtOH | 1.2 L | CCO | C2H6O
product | ethyl cyclobutanecarboxylate | 44 g, 69% | C1(CCC1)C(=O)OCC | C7H12O2
